US04156011
Following the procedure indicated in Example 49b 47 g of a limpid pale yellow oil are prepared from 29 g (0.150 mol) of p-bromothiophenol and 32.2 g (0.165 mol) of ethyl 2-bromo-2-methylpropionate; subsequent purification of this oil (by distillation under reduced pressure) gives 40.8 g of ethyl 2-(p-bromophenylthio)-2-methylpropionate.

reactant | p-bromothiophenol | 0.150 mol, 29 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | ethyl 2-bromo-2-methylpropionate | 0.165 mol, 32.2 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
product | ethyl 2-(p-bromophenylthio)-2-methylpropionate | 40.8 g, Yield=90% | BrC1=CC=C(C=C1)SC(C(=O)OCC)(C)C | C12H15BrO2S
